US06320050B1
A solution of triphenylphosphine (312 mg, 1.19 mmol) in methylene chloride (5 mL) was cooled to 0° C. and then slowly treated with N-bromosuccinimide (212 mg, 1.19 mmol). The reaction mixture was stirred at 0° C. for 30 min and then treated with 3-cyclopentyl-2-(3-fluoro-4-trifluoromethyl-phenyl)-propionic acid (300 mg, 0.99 mmol). The resulting reaction mixture was stirred at 0° C. for 15 min and then allowed to warm to 25° C. where it was stirred for 30 min. The reaction mixture was then treated with 2-aminothiazole (218 mg, 2.18 mmol). The resulting reaction mixture was stirred at 25° C. for 3 d. The crude reaction mixture was then directly purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 2/1 hexanes/ethyl acetate) to afford 3-cyclopentyl-2-(3-fluoro-4-trifluoromethyl-phenyl)-N-thiazol-2-yl-propionamide (243 mg, 64%) as a white solid: mp 194-195° C.; EI-HRMS m/e calcd for C18H18F4N2OS (M+) 386.1076, found 386.1076.

reactant | triphenylphosphine | 1.19 mmol, 312 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 1.19 mmol, 212 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2-(3-fluoro-4-trifluoromethyl-phenyl)-propionic acid | 0.99 mmol, 300 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)C(F)(F)F)F | C15H16F4O2
reactant | 2-aminothiazole | 2.18 mmol, 218 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(3-fluoro-4-trifluoromethyl-phenyl)-N-thiazol-2-yl-propionamide | 243 mg, 64% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC(=C(C=C1)C(F)(F)F)F | C18H18F4N2OS
